US06414148B1
Triphenylphosphine (410 mg, 1.5 mmol) and 1-methyl-3-pyrrolidinol (0.128 ml, 1.5 mmol) were added to a solution of 4-(chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (250 mg, 0.78 mmol), (prepared as described for the starting material in Example 2), in methylene chloride (4 ml). Diethyl azodicarboxylate (0.246 ml, 1.5 mmol) was added dropwise and the reaction mixture was stirred for 1 hour at ambient temperature. Additional triphenylphosphine (61 mg, 0.23 mmol) followed by diethyl azodicarboxylate (37 μl, 0.23 mmol) was added and the mixture was stirred for 15 minutes at ambient temperature. The solvent was removed by evaporation and the residue was purified by column chromatography eluting with methylene chloride/methanol (80/20) followed by methylene chloride/methanol/triethylamine (80/20/0.5). The purified product was dissolved in methylene chloride/methanol and the insolubles were removed by filtration. A solution of hydrogen chloride in 2-propanol (0.5 ml of a 5M solution) was added to the filtrate and the volatiles were removed by evaporation. The residue was triturated with 2-propanol and ether, collected by filtration and dried to give 4-(4-chloro-2-fluoranilino)-6-methoxy-7-(1-methylpyrrolidin-3-yloxy)quinazoline hydrochloride hydrate (149 mg, 40%).

reactant | Triphenylphosphine | 1.5 mmol, 410 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-methyl-3-pyrrolidinol | 1.5 mmol, 0.128 ml | CN1CC(CC1)O | C5H11NO
reactant | 4-(chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.78 mmol, 250 mg | ClN(C1=C(C=CC=C1)F)C1=NC=NC2=CC(=C(C=C12)OC)O | C15H11ClFN3O2
reactant | Diethyl azodicarboxylate | 1.5 mmol, 0.246 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.23 mmol, 61 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.23 mmol, 37 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoranilino)-6-methoxy-7-(1-methylpyrrolidin-3-yloxy)quinazoline hydrochloride hydrate | 149 mg, 40% | O.Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC2CN(CC2)C)C=C1)F | InChI=1S/C20H20ClFN4O2.ClH.H2O/c1-26-6-5-13(10-26)28-19-9-17-14(8-18(19)27-2)20(24-11-23-17)25-16-4-3-12(21)7-15(16)22;;/h3-4,7-9,11,13H,5-6,10H2,1-2H3,(H,23,24,25);1H;1H2
